US07491710B2
77 μl of 1,8-diazabicyclo[5.4.0]undec-7-ene are added to a solution of 193 mg of 3-[5-(2-piperidin-1-ylethoxy)-1H-indol-2-yl]-1H-indazol-5-ol and 173.5 mg of methylphosphonic acid bis-(4-nitrophenyl) ester in 10 ml of dichloromethane and the mixture is allowed to react at 20° C. After reaction for three hours, 300 μl of methanol and then 77 μl of 1,8-diazabicyclo[5.4.0]undec-7-ene are added and the reaction is continued at 20° C. for 16 hours. The reaction medium is then taken up in a mixture of dichloromethane (150 ml) and a saturated sodium bicarbonate solution (100 ml). After separation by settling out and extraction with dichloromethane (50 ml), the organic extracts are combined, dried over magnesium sulfate and then evaporated under reduced pressure. The crude compound thus obtained is purified by chromatography on silica (Interchrom column, reference DC0210, 20 g silica, eluent dichloromethane/methanol 9/1 v/v, 15 ml/min). The fractions containing the expected compound are combined and evaporated under reduced pressure. 89 mg of 3-[5-(2-piperidin-1-ylethoxy)-1H-indol-2-yl]-1H-indazol-5-ylphosphonic acid methyl ester are isolated and characterized.

reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 77 μl | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 3-[5-(2-piperidin-1-ylethoxy)-1H-indol-2-yl]-1H-indazol-5-ol | 193 mg | N1(CCCCC1)CCOC=1C=C2C=C(NC2=CC1)C1=NNC2=CC=C(C=C12)O | C22H24N4O2
reactant | methylphosphonic acid bis-(4-nitrophenyl) ester | 173.5 mg | [N+](=O)([O-])C1=CC=C(C=C1)OP(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)C | C13H11N2O7P
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 77 μl | N12CCCCCC2=NCCC1 | C9H16N2
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | methanol | 300 μl | CO | CH4O
product | 3-[5-(2-piperidin-1-ylethoxy)-1H-indol-2-yl]-1H-indazol-5-ylphosphonic acid methyl ester | 89 mg | COP(O)(=O)C=1C=C2C(=NNC2=CC1)C=1NC2=CC=C(C=C2C1)OCCN1CCCCC1 | C23H27N4O4P
